US06414126B1
To a stirred solution of N-ethyl-4-methoxybenzyl amine (1.07 g, 6.49 mmol) in DMF (10 mL) was added 2,6-dihydroxybenzoic acid (1.0 g, 6.49 mmol) followed by HOAt (0.97 g, 7.14 mmol) and EDC (1.31 g, 6.81 mmol). After stirring overnight, the reaction was diluted with EtOAc prior to washing 3× with H2O. The combined aqueous layers were extracted once with EtOAc. The organic fractions were combined, washed once with brine, and dried over Na2SO4 prior to concentrating using a rotary evaporator. The residue was chromatographed on silica gel using 75% EtOAc/hexane as the eluent. The resulting promising impure fractions were further purified by silica gel chromatography. A total of 631 mg of the desired N-ethyl-N-4-methoxybenzyl 2,6-dihydroxybenzamide was obtained.

reactant | N-ethyl-4-methoxybenzyl amine | 6.49 mmol, 1.07 g | C(C)NCC1=CC=C(C=C1)OC | C10H15NO
reactant | 2,6-dihydroxybenzoic acid | 6.49 mmol, 1.0 g | OC1=C(C(=O)O)C(=CC=C1)O | C7H6O4
reactant | HOAt | 7.14 mmol, 0.97 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 6.81 mmol, 1.31 g
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-ethyl-N-4-methoxybenzyl 2,6-dihydroxybenzamide | 631 mg | C(C)N(C(C1=C(C=CC=C1O)O)=O)CC1=CC=C(C=C1)OC | C17H19NO4
